US09388177B2
4-bromo-3-methoxybenzoic acid
To a stirred solution of methyl 4-bromo-3-methoxybenzoate (11.2 g) in THF (130 mL), methanol (45 mL) and water (45 mL) was added a 1 M solution of lithium hydroxide in water (140 mL). The mixture was stirred at room temperature for 1 h. The solvent was removed in vacuum. Water was added and 1 N hydrochloric acid was added with ice bath cooling until pH 4 was reached. The precipitated solid was collected by filtration, washed with water and dried in vacuum to give 10.1 g of the title compound, that was used without further purification.

reactant | methyl 4-bromo-3-methoxybenzoate | 11.2 g | BrC1=C(C=C(C(=O)OC)C=C1)OC | C9H9BrO3
reactant | lithium hydroxide | [OH-].[Li+]
solvent | THF | 130 mL | C1CCOC1 | C4H8O
solvent | methanol | 45 mL | CO | CH4O
solvent | water | 45 mL | O | H2O
solvent | water | 140 mL | O | H2O
product | 4-bromo-3-methoxybenzoic acid | 10.1 g | BrC1=C(C=C(C(=O)O)C=C1)OC | C8H7BrO3
